US06544985B2
{2-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-5-dimethylamino-4-trifluoromethyl-phenyl}-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J6) (319 mg, 1.0 mmol) and 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester (Example K3) (246 mg, 1.0 mmol) according to the general procedure M. Obtained as an amorphous yellow substance (297 mg).

reactant | (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | 1.0 mmol, 319 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)N)=O | C14H20F3N3O2
reactant | 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester | 1.0 mmol, 246 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C#N)=O | C13H14N2O3
product | {2-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-5-dimethylamino-4-trifluoromethyl-phenyl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C23H24F3N5O4
